US06541505B1
6-Pyrrolidino-hexanenitrile.
Using pyrrolidine and 6-chloro-hexanenitrile as substrates. MS (ion spray) m/z 167 (M+H)+.

reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 6-chloro-hexanenitrile | ClCCCCCC#N | C6H10ClN
product | 6-Pyrrolidino-hexanenitrile | N1(CCCC1)CCCCCC#N | C10H18N2
